US06127378
28. (+/-)-cis-8,9-Dimethoxy-6-(4-aminophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine
8.5 g of (+/-)-cis-8,9-dimethoxy-6-(4-nitrophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine are dissolved in 200 ml of methanol, and the solution is treated with 5 ml of concentrated hydrochloric acid, 20 ml of water and 800 mg of iron powder and stirred overnight at RT. The reaction mixture is filtered, the filtrate is concentrated, the residue is extracted with sodium hydrogencarbonate solution/ethyl acetate, and the organic phase is dried using sodium sulfate and concentrated. The residue is chromatographed on silica gel using a mixture of toluene/dioxane/triethylamine in the ratio 40:20:2. After concentration of the corresponding eluate fractions, 5.5 g (70.5% of theory) of the title compound of m.p. 159.5-161° C. are obtained.

reactant | (+/-)-cis-8,9-dimethoxy-6-(4-nitrophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine | 8.5 g | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N2O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
catalyst | iron | 800 mg | [Fe] | Fe
product | (+/-)-cis-8,9-Dimethoxy-6-(4-aminophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)N | C21H24N2O2
